US07026335B2
Preparation of 4-cyclohexyl-4-[2-(3H-imidazol-4-yl)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (11):
A solution of 4-cyclohexyl-4-(3-oxo-propyl)-piperidine-1-carboxylic acid tert-butyl ester, 10, (300 mg, 0.93) in ethanol (10 ml) is treated with tosylmethyl isocyanide (tosMIC) (176 mg, 0.93 mmole) and sodium cyanide (6 mg) at room temperature for three hours. The solvent is removed under reduced pressure and ammonia in methanol (2M, 10 ml) added. The mixture is stirred in a sealed tube overnight. The reaction mixture is then concentrated under reduced pressure and the residue taken up in chloroform, washed with aqueous sodium bicarbonate, brine, then dried with sodium sulfate and concentrated to a red oil. The residue is purified over silica (methylene chloride:methanol=15:1, Rf=0.58) to afford 141 mg (42% yield) of the desired product.

reactant | 4-cyclohexyl-4-(3-oxo-propyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC=O)C1CCCCC1 | C19H33NO3
reactant | tosylmethyl isocyanide | 0.93 mmole, 176 mg | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | sodium cyanide | 6 mg | [C-]#N.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-cyclohexyl-4-[2-(3H-imidazol-4-yl)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 141 mg, 42% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC=1NC=NC1)C1CCCCC1 | C21H35N3O2
